US05217976
A solution of N-tert-butyl-4'-[(5,7-diethyl-2-oxo-1,2-dihydro-1,6-naphthyridin-1-yl)methyl]biphenyl-2-sulphonamide (200 mg) in trifluoroacetic acid (5 ml) was heated at reflux for 3 hours. Volatile material was removed by evaporation and water was added to the residue. The resultant solution was basified by the addition of solid potassium carbonate and then extracted twice with ethyl acetate. The combined extracts were washed with water, saturated sodium chloride solution and then dried (MgSO4). The solvent was removed by evaporation to give 4'-[(5,7-diethyl-2-oxo-1,2-dihydro-1,6-naphthyridin-1-yl)methyl]biphenyl-2-sulphonamide as a solid (137 mg); m.p. 199°-200° C.; NMR (d6 -DMSO): 1.18(t, 3H), 1.26(t, 3H), 2.73(q, 2H), 3.07(q, 2H), 5.54(s, 2H), 6.72(d, 1H), 7.1-7.7(m, 10H), 8.01(dd, 1H), 8.23(d, 1H); mass spectrum (+ve FAB, methanol/NBA): 448 (M+H)+ ; microanalysis, found: C, 67.0; H, 5.5; N, 9.2%; C25H25N3O3S requires: C, 67.1; H, 5.6; N, 9.4%.

reactant | N-tert-butyl-4'-[(5,7-diethyl-2-oxo-1,2-dihydro-1,6-naphthyridin-1-yl)methyl]biphenyl-2-sulphonamide | 200 mg | C(C)(C)(C)NS(=O)(=O)C=1C(=CC=CC1)C1=CC=C(C=C1)CN1C(C=CC2=C(N=C(C=C12)CC)CC)=O | C29H33N3O3S
solvent | trifluoroacetic acid | 5 ml | FC(C(=O)O)(F)F | C2HF3O2
product | 4'-[(5,7-diethyl-2-oxo-1,2-dihydro-1,6-naphthyridin-1-yl)methyl]biphenyl-2-sulphonamide | 137 mg | C(C)C1=C2C=CC(N(C2=CC(=N1)CC)CC1=CC=C(C=C1)C=1C(=CC=CC1)S(=O)(=O)N)=O | C25H25N3O3S
